* P2 write-path first-cut (standalone example; write_mc_harness.py drives the sweep).
* Ideal pulse -> driver output resistance Rdrv -> SOT write branch (smtj_sot, R_SOT internal).
* Shows: 0.75 ns pulse delivery across 776 ohm, channel-vs-driver energy split, P_sw at the
* delivered flat-top voltage. A real sky130 CMOS driver replaces Vpulse+Rdrv once the PDK is in.
* Needs .spiceinit in cwd ("osdi smtj_sot.osdi"); compile smtj_sot.va with OpenVAF first.
.model msmtj smtj_sot
.param Vamp=0.90 Rdrv=10 Cwr=5f tw=0.75n tr=0.05n

Vpulse drvin 0 PULSE(0 {Vamp} 0.2n {tr} {tr} {tw} 10n)
Rdrv drvin wr {Rdrv}
Cwr  wr 0 {Cwr}

Vcom com 0 dc 0
Vrd  rd  0 dc 0
Vst  st  0 dc 0
N1 wr rd com st psw tau sinf msmtj
Rpsw  psw  0 1e12
Rtau  tau  0 1e12
Rsinf sinf 0 1e12

.control
  tran 0.5p 4n
  wrdata write_tran.csv v(wr) v(drvin)
  quit
.endc
.end
